US08115006B2
Preparation (2) of N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide
1.0 g of N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-5-oxopyrazolidine-3-carboxamide was dissolved in 10 ml of N,N-dimethylformamide, 460 mg of 2,3-dichloropyridine was added and then 350 mg of sodium hydride was added, followed by stirring for about 7 hours at about 70° C. in nitrogen atmosphere, and the reaction liquid was stood to cool. Water was added to the reaction liquid and stirred, followed by extraction with ethyl acetate, and the obtained crude product was purified by silica gel column chromatography (eluent: ethyl acetate/methanol=9/1) to obtain 1.15 g of the desired product.

reactant | N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-5-oxopyrazolidine-3-carboxamide | 1.0 g | ClC1=CC(=C(C=C1)NC(=O)C1NNC(C1)=O)C(NC(C)C1CC1)=O | C16H19ClN4O3
reactant | 2,3-dichloropyridine | 460 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | sodium hydride | 350 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide | 1.15 g | ClC1=CC(=C(C=C1)NC(=O)C1CC(=NN1C1=NC=CC=C1Cl)O)C(NC(C)C1CC1)=O | C21H21Cl2N5O3
